US07138432B1
To a suspension of 1 g (2.74 mmol) of [(4-hydroxy-benzenesulfonyl)-(4-methoxy-benzyl)-amino]-acetic acid methyl ester and 1.14 g (8.22 mmol) of K2CO3 in 8 ml of DMF, 0.59 ml (5.47 mmol) of 1-bromo-4-fluorobutane is added dropwise at r.t. After stirring for 18 h at r.t., the reaction mixture is diluted with H2O and extracted with AcOEt. The combined extracts are washed with brine, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by column chromatography on silica gel (AcOEt:n-hexane=3:1) to give {[4-(4-fluorobutoxy)-benzenesulfonyl](4-methoxy-benzyl)-amino}-acetic acid methyl ester; NMR (CDCl3): 1.86–1.96 (m, 4H), 3.57 (s, 3H), 3.79 (s, 3H), 3.90 (s, 2H), 4.08 (t, 2H, J=6.04 Hz), 4.39 (s, 2H), 4.46 (t, 1H, J=6.04 Hz), 4.55–4.65 (m, 1H), 6.83 (d, 2H, J=8.56 Hz), 6.97 (d, 2H, J=9.08 Hz), 7.15 (d, 2H, J=8.56 Hz), 7.82 (d, 2H, J=9.08 Hz).

reactant | [(4-hydroxy-benzenesulfonyl)-(4-methoxy-benzyl)-amino]-acetic acid methyl ester | 2.74 mmol, 1 g | COC(CN(CC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC=C(C=C1)O)=O | C17H19NO6S
reactant | K2CO3 | 8.22 mmol, 1.14 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-4-fluorobutane | 5.47 mmol, 0.59 ml | BrCCCCF | C4H8BrF
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | {[4-(4-fluorobutoxy)-benzenesulfonyl](4-methoxy-benzyl)-amino}-acetic acid methyl ester | COC(CN(CC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC=C(C=C1)OCCCCF)=O | C21H26FNO6S
